US05608062
4-Trifluoroacetyltrifluoromethylbenzene
25.4 g (0.1 mol) of 2,2,2-trifluoro-1-(4-trifluoromethylphenyl)ethanol and 1.76 g (0.005 mol) of tetrabutylammonium hydrogen sulfate are dissolved in 350 ml of methylene chloride at room temperature. 108 ml (0.125 mol) of an approximately 12% strength sodium hypochlorite solution are metered in within 20 minutes with vigorous stirring and the mixture is stirred for a further 5 hours at room temperature. The reaction mixture is added to 400 ml of water, the phases are separated, the aqueous phase is extracted several times with methylene chloride and the combined organic phases are washed with saturated aqueous sodium chloride solution. After drying the organic phase with sodium sulfate, the volatiles are distilled off. Following distillation of the crude product (18 torr, 60°-61° C.), 16.74 g (66.5% of theory) of 4-trifluoroacetyltrifluoromethylbenzene are obtained, which, according to GC, is 96.7% pure. nD20 : 1.4146.

reactant | 2,2,2-trifluoro-1-(4-trifluoromethylphenyl)ethanol | 0.1 mol, 25.4 g | FC(C(O)C1=CC=C(C=C1)C(F)(F)F)(F)F | C9H6F6O
reactant | sodium hypochlorite | Cl[O-].[Na+]
reactant | water | 400 ml | O | H2O
catalyst | tetrabutylammonium hydrogen sulfate | 0.005 mol, 1.76 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | methylene chloride | 350 ml | C(Cl)Cl | CH2Cl2
product | 4-Trifluoroacetyltrifluoromethylbenzene | FC(C(=O)C1=CC=C(C=C1)C(F)(F)F)(F)F | C9H4F6O
